* Distorsore a diodi funzionante con 9V
C1 1 2 1u

R1 2 3 1k
R2 3 0 1M

D1 3 0 1N4148 Is=5.3e-9 N=1.68 Vt=0.02585 Cj0=1.15e-12 Vj=0.74 Mj=0.02
D2 0 3 1N4148 Is=5.3e-9 N=1.68 Vt=0.02585 Cj0=1.15e-12 Vj=0.74 Mj=0.02
D3 3 0 1N4148 Is=5.3e-9 N=1.68 Vt=0.02585 Cj0=1.15e-12 Vj=0.74 Mj=0.02
D4 0 3 1N4148 Is=5.3e-9 N=1.68 Vt=0.02585 Cj0=1.15e-12 Vj=0.74 Mj=0.02

C2 3 4 10u
R3 4 0 10k

.input 1
.output 3
